US08877970B2
4-(3-(4-iodophenyl)thioureido)benzenesulfonamide (MIP-1149)
The subject compound was prepared utilizing the procedure described above from 4-isothiocyanatobenzenesulfonamide and 4-iodoaniline. 1H NMR (400 MHz, DMSO-d6) δ 10.13 (s, 1H), 10.08 (s, 1H), 7.76-7.65 (m, 6H), 7.32 (d, J=8.8 Hz, 2H), 7.29 (bs, 2H); (M+H)+ (434).

reactant | 4-isothiocyanatobenzenesulfonamide | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
product | 4-(3-(4-iodophenyl)thioureido)benzenesulfonamide | IC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)S(=O)(=O)N)=S | C13H12IN3O2S2
